US07674804B2
Step 2: (2-Chloro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride (Intermediate C1)
A solution of 4-(2-chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (3.2 g, 10.23 mmol) in ethanol (40 mL) and 4 M HCl in dioxane (70 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 213.3 [M+H]+.

reactant | 4-(2-chloro-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 10.23 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC=C1)Cl | C14H21ClN4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
product | (2-Chloro-pyrimidin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=NC=CC(=N1)NC1CCNCC1 | InChI=1S/C9H13ClN4.2ClH/c10-9-12-6-3-8(14-9)13-7-1-4-11-5-2-7;;/h3,6-7,11H,1-2,4-5H2,(H,12,13,14);2*1H
